US08278282B2
To a solution of (3R,4R,5R)-5-(2,4-dichloro-benzyloxymethyl)-4-(2,4-dichlorobenzyloxy)-2-methoxy-tetrahydrofuran-3-acetate I-1 (10 g, 19.1 mmol) in MeOH (150 ml) is added a solution of 30% NaOMe in MeOH (5.37 ml, 28.6 mmol, 1.5 equiv.) and the reaction is stirred at room temperature for 30 mins. The reaction mixture is concentrated and dissolved in ethyl acetate (180 ml), washed with 1 N HCl solution and saturated brine, dried (anhyd Na2SO4) and concentrated to give (3R,4S,5R)-5-(2,4-Dichlorobenzyloxymethyl)-4-(2,4-dichlorobenzyloxy)-2-methoxy-tetrahydrofuran-3-ol I-2 as yellowish oil. The obtained crude compound is used for the next step without further purification.

reactant | (3R,4R,5R)-5-(2,4-dichloro-benzyloxymethyl)-4-(2,4-dichlorobenzyloxy)-2-methoxy-tetrahydrofuran-3-acetate | ClC1=C(COC[C@@H]2[C@@H]([C@H](C(O2)OC)CC(=O)[O-])OCC2=C(C=C(C=C2)Cl)Cl)C=CC(=C1)Cl
reactant | NaOMe | C[O-].[Na+]
solvent | MeOH | 150 ml | CO | CH4O
solvent | MeOH | 28.6 mmol, 5.37 ml, 1.5 equiv. | CO | CH4O
product | (3R,4S,5R)-5-(2,4-Dichlorobenzyloxymethyl)-4-(2,4-dichlorobenzyloxy)-2-methoxy-tetrahydrofuran-3-ol | ClC1=C(COC[C@@H]2[C@H]([C@H](C(O2)OC)O)OCC2=C(C=C(C=C2)Cl)Cl)C=CC(=C1)Cl | C20H20Cl4O5
